US05382590
The procedure is analogous to that described in Example 1, but 0.9 g of 2-(2-amino-N-phenylacetamido)-N-cyclopropylmethylacetamide and 0.45 g of 3-methylphenyl isocyanate are used as the starting material. After recrystallization from acetonitrile, 1 g of N-cyclopropylmethyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 168° C. is obtained.

reactant | 2-(2-amino-N-phenylacetamido)-N-cyclopropylmethylacetamide | 0.9 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)NCC1CC1 | C14H19N3O2
reactant | 3-methylphenyl isocyanate | 0.45 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-cyclopropylmethyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 1 g | C1(CC1)CNC(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O | C22H26N4O3
